Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:3],1.98073183506
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],-1.20117972364
[H:1][O:2][C:3]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.1124018967
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],4.578235097169999
[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]#[C:8].[H:9]>>[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]#[C:8][H:9],-5.96177079352
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:9]([H:10])=[C:11][H:12],4.5034189627900005
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13][H:14],5.11745994026
[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])([H:7])[H:8]>>[C:2]([C:3]=[O:4])([H:6])([H:7])[H:8].[O:1]=[C:5],0.4944447912399999
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:8]([H:7])[C:9]([H:10])([H:11])[H:15],3.4473454946800004
[C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10],-5.79636735855
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.803588666
[O:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3](#[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[O:2],-1.2539128433700002
[C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-5.35272759446
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2],7.069910879189999
[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.943859189318
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],4.68937446145
[H:1][O:2][C:3]#[C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]#[C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2],6.8134465592
[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14],-1.6323290677200002
[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-2.94048093292
[O:1][C:2][C:3]#[C:4][O:5]>>[C:4]=[O:5].[O:1][C:2][C:3],4.32463534306
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-1.3531727087399998
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],4.99493554317
[H:1][O:2][C:3].[O:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.902623357931
[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[C:7][H:8])[O:9][H:10]>>[C:2]=[C:3]([O:4][H:5])[C:6](=[C:7][H:8])[O:9][H:10].[H:1],4.36539851828
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.9246697873300014
[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])=[C:5]=[O:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],2.2869837511
[H:1][O:2][C:3]([C:4]([C:5]([H:6])([H:7])[H:8])=[C:9][H:10])=[C:11][H:12]>>[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]1[H:12],-1.94811988359
[C:5]#[C:6][O:7][C:8][H:9].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8][H:9],-2.13722264271
